US06777557B2
1-[2-(1-pyrrolidinyl)-2-oxoethyl]-2-(cyanomethyl)pyridinium bromide
2-Pyridineacetonitrile (0.8 g, 6.77 mmole) and 1-(bromoacetyl)pyrrolidine (1.3 g, 6.77 mmole) were warmed to melt the 1-(bromoacetyl)pyrrolidine, then stirred at room temp. for 3 days. The mixture was dissolved in acetonitrile (5 mL) and ether (2 mL) and stored at 4 C. for 3 days. The crystals which separated were filtered out to yield a crude product which was dissolved in methanol, decolorized, evaporated, and the residue triturated with 30% ether-acetonitrile to obtain 0.72 g of the title compound, mp 150-152 C.

reactant | 2-Pyridineacetonitrile | 6.77 mmole, 0.8 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 1-(bromoacetyl)pyrrolidine | 6.77 mmole, 1.3 g | BrCC(=O)N1CCCC1 | C6H10BrNO
reactant | ether | 2 mL | CCOCC | C4H10O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-[2-(1-pyrrolidinyl)-2-oxoethyl]-2-(cyanomethyl)pyridinium bromide | 0.72 g | [Br-].N1(CCCC1)C(C[N+]1=C(C=CC=C1)CC#N)=O | InChI=1S/C13H16N3O.BrH/c14-7-6-12-5-1-2-10-16(12)11-13(17)15-8-3-4-9-15;/h1-2,5,10H,3-4,6,8-9,11H2;1H/q+1;/p-1
